US07776875B2
Preparation of Intermediate (4-chloro-2-formyl-phenoxy)-acetonitrile
At room temperature, a mixture of (4-chloro-2-[1,3]dioxolan-2-yl-phenoxy)-acetonitrile (28.68 g, 0.12 mol) and trifluoroacetic acid (41.04 g, 0.36 mol) in EtOAc (500 mL) was stirred overnight. Then the solution was washed with water, saturated NaHCO3 solution twice, dried over anhydrous Na2SO4, and concentrated to give crude product (22 g). The crude product was directly used for next step without further purification.

reactant | (4-chloro-2-[1,3]dioxolan-2-yl-phenoxy)-acetonitrile | 0.12 mol, 28.68 g | ClC1=CC(=C(OCC#N)C=C1)C1OCCO1 | C11H10ClNO3
reactant | trifluoroacetic acid | 0.36 mol, 41.04 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | (4-chloro-2-formyl-phenoxy)-acetonitrile | 22 g | ClC1=CC(=C(OCC#N)C=C1)C=O | C9H6ClNO2
